US04229467
35.2 g (0.2 mole) of 7-hydroxy-4-methyl-coumarin, 27.6 g (0.2 mole) of potassium carbonate, 55.4 g (0.2 mole) of 1-bromotetradecane and 600.0 ml of dry dimethylformamide are stirred in a steam bath overnight. The mixture is cooled and extracted into 1.5 liters of diethyl ether. The ether layer is washed 5 times with saturated saline. It is dried (Na2SO4) and evaporated. The ether is replaced with 800 ml of hexane. The mixture is recrystallized therefrom, yielding 68.3g (92%) of 7-tetradecyloxy-4-methyl-coumarin, m.p. 61°-62° C.

reactant | 7-hydroxy-4-methyl-coumarin | 0.2 mole, 35.2 g | OC1=CC=C2C(=CC(OC2=C1)=O)C | C10H8O3
reactant | potassium carbonate | 0.2 mole, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromotetradecane | 0.2 mole, 55.4 g | BrCCCCCCCCCCCCCC | C14H29Br
solvent | dimethylformamide | 600.0 ml | CN(C=O)C | C3H7NO
product | 7-tetradecyloxy-4-methyl-coumarin | 68.3g, 92% | C(CCCCCCCCCCCCC)OC1=CC=C2C(=CC(OC2=C1)=O)C | C24H36O3
